US07294629B2
Formamidine acetate (4.51 g, 43.3 mmol) and methoxyethanol (60 mL) were added to 5-bromo-4-nitroanthranyl acid (described in JP-A-2000-169451) (5.65 g, 21.7 mmol) and the mixture was refluxed for 4 hrs. Water was added until the reaction mixture becomes about 200 mL and the precipitate was filtered and washed with water. The precipitate was dried under reduced pressure to give 6-bromo-7-nitro-3H-quinazolin-4-one (5.21 g, 64%). To a solution (20 mL) of 6-bromo-7-nitro-3H-quinazolin-4-one (1.34 g, 5.0 mmol) in toluene were added phosphorous oxychloride (0.70 mL, 7.5 mmol) and diisopropylethylamine (1.29 mL, 7.5 mmol), and the mixture was stirred at 80° C. for 5 hrs. A solution (5 mL) of 3-chloro-4-fluoroaniline (1.09 g, 7.5 mmol) in isopropanol was added at room temperature, and the mixture was stirred overnight. The reaction mixture was poured into hexane (30 mL) and the mixture was stirred at room temperature for 30 min. The product was collected by filtration and dried. To this compound were added reduced iron (1.10 g, 20.0 mmol), 1N hydrochloric acid (10 mL) and ethanol (30 mL) and the mixture was refluxed for 1 hr. 1N Aqueous sodium hydroxide solution (10 mL) was added and the mixture was stirred at 50° C. for 30 min. Saturated brine was added and the mixture was extracted with ethyl acetate. The organic layer was concentrated and the residue was suspension-washed with acetonitrile (10 mL) to give 6-bromo-N4-(3-chloro-4-fluorophenyl)-4,7-quinazolinediamine (5′) (987 mg, 54%).

reactant | 6-bromo-7-nitro-3H-quinazolin-4-one | 5.0 mmol, 20 mL, 1.34 g | BrC=1C=C2C(NC=NC2=CC1[N+](=O)[O-])=O | C8H4BrN3O3
reactant | phosphorous oxychloride | 7.5 mmol, 0.70 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diisopropylethylamine | 7.5 mmol, 1.29 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-chloro-4-fluoroaniline | 7.5 mmol, 5 mL, 1.09 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | hydrochloric acid | 1N, 10 mL | Cl | ClH
reactant | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | brine | [Cl-].[Na+].O
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | hexane | 30 mL | CCCCCC | C6H14
product | 6-bromo-N4-(3-chloro-4-fluorophenyl)-4,7-quinazolinediamine | BrC=1C=C2C(=NC=NC2=CC1N)NC1=CC(=C(C=C1)F)Cl | C14H9BrClFN4
